US06949552B2
1.0 g of 2-Chloro-4′-fluoroacetophenone was dissolved in 5 ml of tetrahydrofuran, and 0.16 g of (S)-5,5-diphenyl-2-methyl-3,4-propano-1,3,2-oxazaborolidine and 1M borane-tetrahydrofuran complex 7.0 ml of tetrahydrofuran solution were added with ice-cooling, followed by stirring for 10 minutes. Then, to the reaction solution was added 2 ml of 4M aqueous sodium hydroxide solution, followed by stirring at room temperature for 4 hours. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in ether and washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (Wako-gel C200, hexane:ethyl acetate=10:1) to give an optically active 2-(4-fluorophenyl)oxirane (0.85 g) as an oil.

reactant | 2-Chloro-4′-fluoroacetophenone | 1.0 g | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
reactant | (S)-5,5-diphenyl-2-methyl-3,4-propano-1,3,2-oxazaborolidine | 0.16 g | C1(=CC=CC=C1)C1([C@H]2N(B(O1)C)CCC2)C2=CC=CC=C2 | C18H20BNO
reactant | sodium hydroxide | 4M, 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(4-fluorophenyl)oxirane | 0.85 g | FC1=CC=C(C=C1)C1OC1 | C8H7FO
